US04359420
A mixture of 175 g (0.93 mol) of methyl 3-amino-2-thiophenecarboxylate hydrochloride, 1.8 liters of n-butanol and 77 g of sodium hydroxide is heated to boiling under reflux for 30 minutes. After concentration of the resulting suspension on a rotary evaporator, the mixture of sodium 3-amino-2-thiophenecarboxylate and sodium chloride is used directly in the next step. For this purpose, the mixture is treated with 800 ml of water, 280 ml of concentrated hydrochloric acid and 230 ml of tetrahydrofuran. Phosgene is conducted through this mixture at 15°-25° C. for 2.5 hours and then air is conducted through for 15 minutes. The separated solid material is filtered off under suction, washed with water and dried. There is obtained 2H-thieno[3,2-d][1,3]oxazine-2,4(1H)-dione of melting point 220°-221° C.

reactant | methyl 3-amino-2-thiophenecarboxylate hydrochloride | 0.93 mol, 175 g | Cl.NC1=C(SC=C1)C(=O)OC
reactant | sodium hydroxide | 77 g | [OH-].[Na+]
solvent | n-butanol | 1.8 liters | C(CCC)O | C4H10O
product | 2H-thieno[3,2-d][1,3]oxazine-2,4(1H)-dione | N1C(OC(C2=C1C=CS2)=O)=O | C6H3NO3S
